US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3-hydroxypropyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 3-amino-1-propanol (18 ul) according to Method A to give material was re-purified by reversed phase HPLC in absence of trifluoroacetic acid to give the title compound (11 mg). 1H-NMR (400 MHz, CD3OD) d 7.84 (s, 1H), 7.39 (d, J=8.3 Hz, 1H), 7.27-7.17 (m, 5H), 7.04 (d, J=8.5 Hz, 1H), 4.79 (s, 2H), 4.51 (m, 1H), 4.23 (dd, J=5.2 Hz, J=9.3 Hz, 1H), 3.25 (m, 1H), 3.15 (m, 1H), 2.75 (m, 1H), 1.62 (m, 2H), 1.36 (s, 9H); HRMS m/z 587.2493 (calc. of monoisotopic mass for C29H37N3O10 gives 587.2479).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3-amino-1-propanol | 18 ul | NCCCO | C3H9NO
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3-hydroxypropyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 11 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCCCO)CC1=CC=CC=C1 | C29H37N3O10
